US07105531B2
A mixture of 0.1 g (0.3 mmol) of 6,7-diamino-4-(5-methoxy-2-methylanilino)-3-quinolinecarbonitrile and 0.11 g (0.62 mmol) of 2-(4-morpholino)ethylisothiocyanate in 0.3 mL of dioxane is heated at 100° C. for 2 hours under nitrogen. The mixture is cooled and solvent is evaporated to dryness to yield an oil consisting of N-[7-amino-3-cyano-4-(5-methoxy-2-methylanilino)-6-quinolinyl]-N-[2-(4-morpholinyl)-ethyl]thiourea and N-[6-amino-3-cyano-4-(5-methoxy-2-methylanilino)-7-quinolinyl]-N′-[2-(4-morpholinyl)ethyl]thiourea. The oil is dissolved in 3.0 mL of ethanol. To this is added 0.3 g of mercuric oxide and 20 mg of sulphur powder and the resulting mixture is heated at reflux temperature for 2 hours. The product mixture is filtered hot through diatomaceous earth, washed with methanol and solvent is evaporated to yield an oil. The oil is purified by silica gel chromatography, utilizing a gradient of methylene chloride/methanol (95:5 to 85:15) to yield 0.062 g of 8-(5-methoxy-2-methylanilino)-2-{[2-(4-morpholinyl)ethyl]amino}imidazo[4,5-g]quinoline-7-carbonitrile as a pink solid, mp 148–150° C. (shrinks at 140° C.).

reactant | 6,7-diamino-4-(5-methoxy-2-methylanilino)-3-quinolinecarbonitrile | 0.3 mmol, 0.1 g | NC=1C=C2C(=C(C=NC2=CC1N)C#N)NC1=C(C=CC(=C1)OC)C | C18H17N5O
reactant | N-[7-amino-3-cyano-4-(5-methoxy-2-methylanilino)-6-quinolinyl]-N-[2-(4-morpholinyl)-ethyl]thiourea | NC1=C(C=C2C(=C(C=NC2=C1)C#N)NC1=C(C=CC(=C1)OC)C)N(C(=S)N)CCN1CCOCC1 | C25H29N7O2S
reactant | N-[6-amino-3-cyano-4-(5-methoxy-2-methylanilino)-7-quinolinyl]-N′-[2-(4-morpholinyl)ethyl]thiourea | NC=1C=C2C(=C(C=NC2=CC1NC(=S)NCCN1CCOCC1)C#N)NC1=C(C=CC(=C1)OC)C | C25H29N7O2S
reactant | sulphur | 20 mg | [S] | S
solvent | dioxane | 0.3 mL | O1CCOCC1 | C4H8O2
solvent | ethanol | 3.0 mL | C(C)O | C2H6O
product | 8-(5-methoxy-2-methylanilino)-2-{[2-(4-morpholinyl)ethyl]amino}imidazo[4,5-g]quinoline-7-carbonitrile | 0.062 g | COC=1C=CC(=C(NC2=C(C=NC=3CC=4C(=CC23)N=C(N4)NCCN4CCOCC4)C#N)C1)C | C25H27N7O2
